US07786157B2
In a 4 mL vial was taken 100 mg of 3-(3-chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one (0.31 mmol, 1.00 eq), 61 mg of 3-cyanobenzoyl chloride (0.37 mmol, 1.20 eq), and 500 uL NMP. The mixture was stirred overnight at room temperature and the crude product was purified by reversed phase HPLC (acetonitrile —H2O with 0.1% TFA as the eluent) to yield N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-3-cyano-N-(2-methoxy-ethyl)-benzamide. MS (ES) M+H expected=455.0, found=455.1.

reactant | 3-(3-chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one | 0.31 mmol, 100 mg, 1.00 eq | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CNCCOC)=O)C | C15H20ClN3O3
reactant | 3-cyanobenzoyl chloride | 0.37 mmol, 61 mg, 1.20 eq | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | NMP | 500 uL | CN1CCCC1=O | C5H9NO
product | N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-3-cyano-N-(2-methoxy-ethyl)-benzamide | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CN(C(C1=CC(=CC=C1)C#N)=O)CCOC)=O)C | C23H23ClN4O4
